US04515948
A suspension of 24.5 g. of dimethylsulfone and 9.1 g. of sodium hydride (50% dispersion in oil) in 50 ml. of absolute dimethylsulfoxide was stirred at 50° C. under an atmosphere of nitrogen and the exclusion of moisture for 3 hours. Then, it was treated with 16 g. of 4-(dimethylamino)-3,5-dimethyl-benzoic acid methyl ester. The mixture was stirred at 80° C. for 45 minutes, cooled and dissolved in 300 ml. of water. The solution was neutralized with glacial acetic acid. The precipitate was removed by filtration with suction, washed with water and recrystallized from alcohol, whereby there was obtained 4'-(dimethylamino) 3',5'-dimethyl-2-(methylsulfonyl)-acetophenone having a melting point of 132°-133° C.

reactant | dimethylsulfone | CS(=O)(=O)C | C2H6O2S
reactant | sodium hydride | [H-].[Na+]
reactant | dimethylsulfoxide | CS(=O)C | C2H6OS
reactant | 4-(dimethylamino)-3,5-dimethyl-benzoic acid methyl ester | COC(C1=CC(=C(C(=C1)C)N(C)C)C)=O | C12H17NO2
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 4'-(dimethylamino) 3',5'-dimethyl-2-(methylsulfonyl)-acetophenone | CN(C1=C(C=C(C=C1C)C(CS(=O)(=O)C)=O)C)C | C13H19NO3S
